US06417200B1
C) 5-benzyloxycarbonyl-N1-(3-cyanobenzoyl)-N2-(4-t-butylbenzoyl)-1,2-benzenediamine
To a solution of 5-methoxycarbonyl-N1-(3-cyanobenzoyl)]-N2-(4-t-butylbenzoyl)-1,2-benzenediamine (2.6 g, 5.7 mmol) in THF (80 mL) was added methanol (27 mL), followed by a solution of LiOH.H2O (1 g, 22.8 mmol) in water (27 mL). After 12 h, the pH was adjusted to 3 with conc HCl and the mixture was concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with 1 N HCl, brine (2×), MgSO4 dried, and concentrated. To the residue dissolved in DMF (20 mL) was added benzyl bromide (1.06 g, 6.2 mmol), followed by K2CO3 (1.6 g, 11.4 mmol). After 3 h, the reaction was concentrated and the residue was dissolved in ethyl acetate and washed with satd aq NaHCO3 followed by brine. The organic layer was MgSO4 dried and 5 g of silica gel was added. This mixture was concentrated and chromatographed (20% ethyl acetate/hexanes to 60% ethyl acetate/hexanes) to give the title compound as a white solid (1.2 g, 40%); MS(FD): 531.0.

reactant | N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 5.7 mmol, 2.6 g | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
reactant | LiOH.H2O | 22.8 mmol, 1 g | O[Li].O
reactant | HCl | Cl | ClH
reactant | benzyl bromide | 6.2 mmol, 1.06 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 11.4 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 27 mL | O | H2O
solvent | methanol | 27 mL | CO | CH4O
product | 5-benzyloxycarbonyl-N1-(3-cyanobenzoyl)-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 1.2 g, 40% | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C(=C1)NC(C1=CC(=CC=C1)C#N)=O)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C33H29N3O4
